Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]#[C:8][H:9])[O:10][H:11].[H:1]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]#[C:8][H:9])[O:10][H:11],-3.99922209508
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:13].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12]/[C:14]([H:15])([H:16])[H:17],4.79238718482
[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:5].[O:1]=[C:2]([O:3][C:4]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11],2.32136232225
[H:1][C:2][O:3][C:4]([H:5])[C:7](=[O:6])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2][O:3][C@@:4]1([H:5])[O:6][C:7]1[C:8]([H:9])([H:10])[H:11],1.2450104119499998
[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7][H:8].[H:9]>>[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])[H:9],-4.40364777809
[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.98132945565
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[O:1],7.68980216367
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])[H:5],4.17227068606
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.50729367252
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][O:3][C:4]([H:5])([H:6])[H:7],3.51955832319
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:10][H:11]>>[C:4]([H:5])([H:6])=[C:7]=[C:8]([H:9])[O:10][H:11].[H:1][C:2]#[C:3],2.84427001865
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]=[C:3]([H:4])[C:5]#[C:7][C:8]([H:9])([H:10])[H:11].[H:6],1.9256687041
[H:9].[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:10][H:11]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][H:11],-1.58390123213
[H:1][O:2][C:3]=[C:5]([H:4])[H:10].[O:6]([H:7])[C:8][H:9]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])[H:10],-3.61944807742
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][H:4],2.96140702121
[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:5].[O:1]=[C:2]([C:3]#[C:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],5.92355230513
[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-5.626706206930001
[C:6]([H:7])([H:8])[H:9].[H:1][C:2]([H:3])=[C:4]=[O:5]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[H:9],0.1760432371
[H:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]1[O:7][C:8]1([H:9])[H:10],-0.8829052235700001
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[C:6]([H:7])([H:8])=[C:9]([H:10])[H:11].[O:1][O:2][C:3]([H:4])[H:5],0.473010770001
[C:3]([H:4])([H:5])=[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-3.78904482071
[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[H:9],2.73388973446
[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.563854282149999
[H:11].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-4.6245027334
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12]>>[C:7]([H:8])#[C:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:11]([H:9])[H:12],5.67786052839
[C:1]#[C:2][C:3](=[C:4]=[O:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]([C:2]#[C:4][O:5])([H:7])([H:8])[H:9].[C:3]#[C:6],5.90006920654
[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10]>>[H:10].[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[O:9],4.63485425089
[C:5]([H:6])[H:7].[O:1][O:2][C:3]#[C:4]>>[O:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7],-7.6344059794899986
[O:1][C:2]#[C:3][C:4](=[O:5])[C:6]([H:7])([H:8])[H:9]>>[C:4](=[O:5])[C:6]([H:7])([H:8])[H:9].[O:1][C:2][C:3],3.98986604845
[C:6]([H:7])([H:8])=[C:9]=[C:10]([H:11])[H:12].[H:1][O:2][C:3]#[C:4][H:5]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],0.8549334369499999
